US06297266B1
419 mg of 2-(3-benzyl-ureido)-thiazole-4-carboxylic acid, 265 mg of CDMT, 4.5 ml of THF and 0.18 ml of N-MM are 4.5 hrs. at RT. After the addition of 350 mg of ethyl 4-amino-phenyloxyacetate hydrochloride and 0.18 ml of N-MM the mixture is stirred for a further 20 hrs. at RT. For the working up, the mixture is diluted with ethyl acetate and washed in succession with dilute hydrochloric acid, water, dilute sodium carbonate solution, water and saturated sodium chloride solution, dried over sodium sulphate and evaporated in a vacuum. Chromatography on silica gel with methylene chloride-alcohol 99:1 and crystallization from ether gives 350 mg of ethyl (4-{[2-(3-benzyl-ureido)-thiazole-4-carbonyl]-amino}-phenoxy)-acetate, m.p. 173° C., MS: 455 (M+H)+.

reactant | 2-(3-benzyl-ureido)-thiazole-4-carboxylic acid | 419 mg | C(C1=CC=CC=C1)NC(NC=1SC=C(N1)C(=O)O)=O | C12H11N3O3S
reactant | THF | 4.5 ml | C1CCOC1 | C4H8O
reactant | ethyl 4-amino-phenyloxyacetate hydrochloride | 350 mg | Cl.NC1=CC=C(C=C1)OCC(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl (4-{[2-(3-benzyl-ureido)-thiazole-4-carbonyl]-amino}-phenoxy)-acetate | 350 mg | C(C1=CC=CC=C1)NC(NC=1SC=C(N1)C(=O)NC1=CC=C(OCC(=O)OCC)C=C1)=O | C22H22N4O5S
